US08207181B2
Step 3: 2-(4-Cyclohexyl-phenoxymethyl)-1,2,7,8-tetrahydro-6H-3-oxa-4,8b-diaza-as-indacen-5-one
The title compound was prepared from (S)-5-(4-cyclohexyl-phenoxymethyl)-4,5-dihydro-oxazol-2-ylamine and 2-oxo-cyclopentanecarboxylic acid ethyl ester in accordance with the procedures of O.-S. Adetchessi, et. al., Tetrahedron, 61, (2005), 4453-4460. C22H26N2O3 (366.19), LCMS (ESI): 367.16 (M++H).

reactant | (S)-5-(4-cyclohexyl-phenoxymethyl)-4,5-dihydro-oxazol-2-ylamine | C1(CCCCC1)C1=CC=C(OC[C@@H]2CN=C(O2)N)C=C1 | C16H22N2O2
reactant | 2-oxo-cyclopentanecarboxylic acid ethyl ester | C(C)OC(=O)C1C(CCC1)=O | C8H12O3
product | 2-(4-Cyclohexyl-phenoxymethyl)-1,2,7,8-tetrahydro-6H-3-oxa-4,8b-diaza-as-indacen-5-one | C1(CCCCC1)C1=CC=C(OCC2CN3C=4CCCC4C(N=C3O2)=O)C=C1 | C22H26N2O3
